US05559113
N-(3-Phenylpropyl)-3-(1H-imidazol-4-yl)propanamide
The preparation is carried out as in Example 1 with 3-phenylpropanamine and 3-(1H-imidazol-4-yl)propanoic acid, the acid being here added after the reaction of the amine component with N,N'-carbonyldiimidazole. The title compound is extracted from water with diethyl ether, purified by chromatography and recrystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | 3-phenylpropanamine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 3-(1H-imidazol-4-yl)propanoic acid | N1C=NC(=C1)CCC(=O)O | C6H8N2O2
product | N-(3-Phenylpropyl)-3-(1H-imidazol-4-yl)propanamide | C1(=CC=CC=C1)CCCNC(CCC=1N=CNC1)=O | C15H19N3O
